US05688803
7-Chloro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
1.27 g (0.0045 mol) of ethyl-8-chloro-2-hydroxy-quinazoline-4-yl-carbazate in 75 ml of dimethylformamide were boiled under reflux for 2 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off, dried in a vacuum and recrystallized from methanol/tetrahydrofuran. Yield: 0.66 g (62%) of 7-chloro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as yellowish crystals; m.p. 348°-350° C.

reactant | ethyl-8-chloro-2-hydroxy-quinazoline-4-yl-carbazate | 0.0045 mol, 1.27 g | C(C)OC(N(N)C1=NC(=NC2=C(C=CC=C12)Cl)O)=O | C11H11ClN4O3
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | ClC1=CC=CC=2C=3N(C(NC12)=O)C(NN3)=O | C9H5ClN4O2
